US07491720B2
(2) Synthesis of methyl 6-(thiazol-2-ylamino)-pyridine-2-carboxylate
A mixture of 1.94 g (9.17 mmol) of (6-chloro-pyridin-2-yl)-thiazol-2-yl-amine, 206 mg (0.918 mmol) of palladium acetate, 508 mg (0.916 mmol) of 1,1′-bisdiphenylphosphinoferrocene, 2.40 ml (13.8 mmol) of N,N-diisopropylethylamine, 10 ml of methanol and 15 ml of N,N-dimethylformamide was stirred at 100° C. for 3 hours and 15 minutes under 3 atmospheric pressure of carbon monoxide and cooled on an ice bath. The resulting solid was filtered and washed with ether to give 1.53 g (6.50 mmol) of the title compound as a light brown solid.

reactant | (6-chloro-pyridin-2-yl)-thiazol-2-yl-amine | 9.17 mmol, 1.94 g | ClC1=CC=CC(=N1)NC=1SC=CN1 | C8H6ClN3S
reactant | N,N-diisopropylethylamine | 13.8 mmol, 2.40 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanol | 10 ml | CO | CH4O
reactant | carbon monoxide | [C]=O | CO
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.918 mmol, 206 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bisdiphenylphosphinoferrocene | 0.916 mmol, 508 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | methyl 6-(thiazol-2-ylamino)-pyridine-2-carboxylate | 6.50 mmol, 1.53 g | S1C(=NC=C1)NC1=CC=CC(=N1)C(=O)OC | C10H9N3O2S
